US07932271B2
2-[(t-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole
An acetonitrile (6 ml) solution of 2,5-difluorobenzaldehyde (327 μl, 3 mmol), 1-(4-methoxyphenyl)imidazole (348 mg, 2 mmol) and di-t-butyl dicarbonate (504 μl, 2.2 mmol) was stirred at room temperature for 20 hours. The reaction mixture was concentrated and then the residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1 to 1:1) to give the title compound (774 mg, 93%) as an oil.

reactant | 2,5-difluorobenzaldehyde | 3 mmol, 327 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | 1-(4-methoxyphenyl)imidazole | 2 mmol, 348 mg | COC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2O
reactant | di-t-butyl dicarbonate | 2.2 mmol, 504 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-[(t-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole | 774 mg, 93% | C(C)(C)(C)OC(=O)OC(C=1N(C=CN1)C1=CC=C(C=C1)OC)C1=C(C=CC(=C1)F)F | C22H22F2N2O4
